US07037921B2
Chloro(4-chloro(3-pyridyl))(hydroxyimino)methane
Dissolve 4-chloropyridine-3-carboxaldehyde oxime (2.60 g, 0.017 mol) in N,N-dimethylformamide (20 mL). Add N-chlorosuccinimide (2.48 g, 0.018 mol) in small portions and stir overnight at ambient temperature. Pour the mixture into water and extract with ethyl acetate. Wash the combined extracts with water and dry over sodium sulfate. Concentrate in vacuo to give 2.45 g (75%) of crude product as a yellowish solid. 1H NMR was consistent with structure.

reactant | 4-chloropyridine-3-carboxaldehyde oxime | 0.017 mol, 2.60 g | ClC1=C(C=NC=C1)C=NO | C6H5ClN2O
reactant | N-chlorosuccinimide | 0.018 mol, 2.48 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Chloro(4-chloro(3-pyridyl))(hydroxyimino)methane | 2.45 g, 75% | ClC(=NO)C=1C=NC=CC1Cl | C6H4Cl2N2O
